US04128648
B. 2,3,8,9-Tetrahydro-5-(4-methoxy-2,5-dimethylphenyl)-9-[(4-methoxy-2,5-dimethylphenyl)methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine
A stirred solution of tetrahydro-3,5-bis[(4-methoxy-2,5-dimethylphenyl)methylene]-4H-pyran-4-one (3.0 g, 7.6 mmole) and 2-amino-2-thiazoline (1.0 g, 9.7 mmole) in 75 ml of CHCl3 is heated at reflux temperature for 72 hours. After cooling, the solution is filtered to remove a small amount of insoluble material. The solvent is evaporated to give an oily residue. A solution of this material in 25 ml of EtOH yields 1.7 g of light yellow solid, m.p. 195°-197°. Crystallization from 20 ml of 10% DMF/MeOH gives 1.3 g (35%) of cream colored solid, m.p. 196°-198°.

reactant | tetrahydro-3,5-bis[(4-methoxy-2,5-dimethylphenyl)methylene]-4H-pyran-4-one | 7.6 mmole, 3.0 g | COC1=CC(=C(C=C1C)C=C1COCC(C1=O)=CC1=C(C=C(C(=C1)C)OC)C)C | C25H28O4
reactant | 2-amino-2-thiazoline | 9.7 mmole, 1.0 g | NC=1SCCN1 | C3H6N2S
solvent | CHCl3 | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 25 ml | CCO | C2H6O
product | 2,3,8,9-Tetrahydro-5-(4-methoxy-2,5-dimethylphenyl)-9-[(4-methoxy-2,5-dimethylphenyl)methylene]-5H,6H-pyrano[4,3-d]thiazolo[3,2-a]pyrimidine | 1.7 g | COC1=CC(=C(C=C1C)C1C2=C(N=C3N1CCS3)C(COC2)=CC2=C(C=C(C(=C2)C)OC)C)C | C28H32N2O3S
